US06174889B1
N4-(1-Benzyl-3-methyl-1H-indazol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine
Prepared according to Procedure A from 1-Benzyl-3-methyl-1H-indazol-5-ylamine and 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.75 (1H,s), 8.90(1H,s), 8.62(1H,s), 8.02(1H,s), 7.70(3H,m), 7.30(5H,m), 5.62(2H,s), 3.30(6H,s) 2.50(3H,s); m/z (M+1+) 410.

reactant | 1-Benzyl-3-methyl-1H-indazol-5-ylamine | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)N)C | C15H15N3
reactant | 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
product | N4-(1-Benzyl-3-methyl-1H-indazol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)N(C)C)C | C24H23N7
